US07108964B2
Preparation of 2-methylamino-benzoic acid, 3-(2-dodecyloxy-5-methyl-phenylcarbamoyl)-4-hydroxy-naphthalen-1-yl ester [A]
N-Methylisatoic anhydride (18.00 g, 90% technical grade containing mineral oil) was suspended in hexane (300 ml) and stirred for 0.75 hr at room temperature. The solid was filtered under suction, washed with petroleum ether (40–60° C.) and dried briefly before use. 1,4-Dihydroxy-naphthalene-2-carboxylic acid (2-dodecyloxy-5-methyl-phenyl)-amide was recrystallised from a mixture of petroleum ether (60–80° C.) and toluene before use. N,N-Diisopropylethylamine (16.20 g, 0.125 mol) was added to a stirred suspension of 1,4-dihydroxy-naphthalene-2-carboxylic acid (2-dodecyloxy-5-methyl-phenyl)-amide (29.14 g, 0.061 mol) and N-methylisatoic anhydride (12.00 g {of 90%}, 0.061 mol) in tetrahydrofuran (150 ml, dried over 4 Å molecular sieves) under an atmosphere of argon. The reaction was heated to reflux overnight. An aliquot was removed, added to dilute hydrochloric acid and extracted with ethyl acetate. Thin layer chromatography indicated the presence of a small amount of residual starting naphthol. A further quantity of N-methylisatoic anhydride (1.1 g) was added and the reflux continued for a further 18 hr. The reaction was allowed to cool and then the solvent was removed under reduced pressure. The residue was taken-up in a mixture of dilute aqueous (2 M) hydrochloric acid (500 ml) and warm ethyl acetate (1000 ml). Some material failed to dissolve and collected at the interface. The buff solid was filtered, washed with ethyl acetate and dried in vacuo (27.3 g). The organic solution was separated and dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Methanol (100 ml) was added and the mixture stirred and boiled under reflux for 15 min and then allowed to cool. A further quantity of a solid precipitated which was filtered and dried in vacuo (3.8 g). The solids were analysed and the results were consistent with the desired 2-methylamino-benzoic acid 3-(2-dodecyloxy-5-methylphenylcarbamoyl)-4-hydroxy-naphthalen-1-yl ester. The total yield of product was 31.1 g (83%).

reactant | N-Methylisatoic anhydride | 18.00 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | N,N-Diisopropylethylamine | 0.125 mol, 16.20 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,4-dihydroxy-naphthalene-2-carboxylic acid (2-dodecyloxy-5-methyl-phenyl)-amide | 0.061 mol, 29.14 g | C(CCCCCCCCCCC)OC1=C(C=C(C=C1)C)NC(=O)C1=C(C2=CC=CC=C2C(=C1)O)O | C30H39NO4
reactant | N-methylisatoic anhydride | 0.061 mol, 12.00 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
solvent | hexane | 300 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-methylamino-benzoic acid, 3-(2-dodecyloxy-5-methyl-phenylcarbamoyl)-4-hydroxy-naphthalen-1-yl ester | CNC1=C(C(=O)OC2=CC(=C(C3=CC=CC=C23)O)C(NC2=C(C=CC(=C2)C)OCCCCCCCCCCCC)=O)C=CC=C1 | C38H46N2O5
